US04760163
using isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-5-fluoro-4-trifluoromethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate and dimethyl sulphate in dimethylformamide there is obtained isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-5-fluoro-3-methyl-4-trifluoromethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate, m.p. 66°-68° C.,

reactant | isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-5-fluoro-4-trifluoromethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(NC(=C(C1=O)F)C(F)(F)F)=O | C15H10ClF5N2O4
reactant | dimethyl sulphate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-5-fluoro-3-methyl-4-trifluoromethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(N(C(=C(C1=O)F)C(F)(F)F)C)=O | C16H12ClF5N2O4
